US08026370B2
(2-mercapto-1,3-thiazol-4-yl)acetic acid ethyl ester
An ammonium salt (102 g) of dithiocarbamic acid was dissolved in ethanol (700 mL), and a solution of 4-chloro-3-oxobutanoic acid ethyl ester (152 g) in ethanol (200 mL) was added dropwise under ice-cooling over 30 min. The temperature was gradually raised, and the mixture was heated under reflux for 2 hr. The reaction solution was concentrated under reduced pressure, water (1 L) was added thereto, and the precipitated solid was collected by filtration. This solid was dissolved in ethyl acetate (4 L), and the mixture was washed with water (2 L) and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure. Diethyl ether (500 mL) was added to the obtained solid, and the solid was washed by suspending and collected by filtration to give the title compound (165 g) as a slightly yellow solid.

reactant | dithiocarbamic acid | C(N)(S)=S | CH3NS2
reactant | 4-chloro-3-oxobutanoic acid ethyl ester | 152 g | C(C)OC(CC(CCl)=O)=O | C6H9ClO3
solvent | ethanol | 700 mL | C(C)O | C2H6O
solvent | ethanol | 200 mL | C(C)O | C2H6O
product | (2-mercapto-1,3-thiazol-4-yl)acetic acid ethyl ester | 165 g | C(C)OC(CC=1N=C(SC1)S)=O | C7H9NO2S2
